US06350774B1
Preparation of (±)-6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)-ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[trans-2-(2-Oxo-oxazolidin-3-yl)cyclohexyloxy]phenyl Ketone.
A slurry of the (±)-6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[trans-2-(2-oxooxazolidin-3-yl)cyclohexyloxy]phenyl ketone (Part C) and an equal weight of 10% Pd/C) in a 1:1 mixture of THF-EtOH was stirred under positive hydrogen pressure (from balloon) for about 19 h. The reaction mixture was filtered through a pad of diatomaceous earth and washed with THF. The filtrate was then concentrated under reduced pressure and the residue was flash chromatographed (silica gel, 10%[10% NH40H in MeOH]/CH2Cl2) to afford the title compound in 62% yield.

reactant | (±)-6-benzyloxy-2-[4-[2-(1-pyrrolidinyl)ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[trans-2-(2-oxooxazolidin-3-yl)cyclohexyloxy]phenyl ketone | O=C1OCCN1[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)OCC2=CC=CC=C2 | C43H44N2O6S
catalyst | Pd/C | [Pd] | Pd
solvent | THF EtOH | C1CCOC1.CCO
product | (±)-6-Hydroxy-2-[4-[2-(1-pyrrolidinyl)-ethoxy]phenyl]benzo[b]thiophen-3-yl 4-[trans-2-(2-Oxo-oxazolidin-3-yl)cyclohexyloxy]phenyl Ketone | 62% yield | O=C1OCCN1[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)C(=O)C=1C2=C(SC1C1=CC=C(C=C1)OCCN1CCCC1)C=C(C=C2)O | C36H38N2O6S
